US07405300B2
2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde is reacted with morpholine as described in Step 2 of Example 29 to afford 2-(morpholin-4-yl)-1-phenyl-1H-indole-3-carboxaldehyde (885 yield) as a fluffy, creamy solid. ESI/MS 307 (M+H); RT 2.99 min; NMR 10.15 (1H, s); 8.14 (1H, d, J=6 Hz); 7.69 (5H, m); 7.22 (2H, m); 6.94 (1H, d, J=9 Hz); 3.45 (4H, m); 3.28 (4H, m).

reactant | 2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-(morpholin-4-yl)-1-phenyl-1H-indole-3-carboxaldehyde | N1(CCOCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C19H18N2O2
